US07594962B2
190 mg 3-bromoanisole, 183 mg phenyl boronic acid and 275 mg potassium carbonate are mixed in 2 ml xylene. To this is added 27 mg of the catalyst from example 5a (corresponds to 0.5 mol % palladium). The reaction mixture is stirred and heated, under an atmosphere of nitrogen, to a temperature of 130° C. for a period of 2 hours. A GC analysis showed that all starting material is consumed and 3-methoxy biphenyl is formed selectively (100% conversion).

reactant | 3-bromoanisole | 190 mg | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | phenyl boronic acid | 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 275 mg | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-methoxy biphenyl | COC=1C=C(C=CC1)C1=CC=CC=C1 | C13H12O
